US05180833
To a mixture of 13.0 g of N,N-dimethyl-N'-nitroguanidine, 5.90 g of powdery sodium hydroxide and 200 ml of dry DMF was dropwise added a solution of 2-chloro-5-(chloromethyl)thiazole in 15 ml of DMF over 2 hours while cooling with ice. The bath was removed, and stirring continued at room temperature for 13 hours followed by removal of the DMF by distillation under reduced pressure. To the residue was added 200 ml of acetonitrile followed by separation of insoluble materials by filtration on celite. The filtrate was purified by column chromatography (eluted with dichloromethane-acetonitrile 2:1-1:2). There was obtained 6.45 g of 1-(2-chloro-5-thiazolylmethyl)-3,3-dimethyl-2-nitroguanidine (reference compound No. 1), mp 155°-160° C. Crystallization from ethanol raised mp to 165.5°-166.5° C. NMR (DMSO-d6): 2.96(6H, s), 4.50(2H, d, J=5.8 Hz), 7.56(1H, s), 8.53(1H, br t, J=5.8 Hz).

reactant | N,N-dimethyl-N'-nitroguanidine | 13.0 g | CN(C(=N)N[N+](=O)[O-])C | C3H8N4O2
reactant | sodium hydroxide | 5.90 g | [OH-].[Na+]
reactant | 2-chloro-5-(chloromethyl)thiazole | ClC=1SC(=CN1)CCl | C4H3Cl2NS
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-(2-chloro-5-thiazolylmethyl)-3,3-dimethyl-2-nitroguanidine | 6.45 g | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])N(C)C | C7H10ClN5O2S
